US06673797B1
2-(2-Furanyl)-5-methanesulfonyl-1-(2-pyridylmethyl)-1H-pyrrolo[2,3-b]pyridine
To a solution of 2-(2-furanyl)-5-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine (140 mg) in N,N-dimethylformamide (5 ml), :60% sodium hydride (53.6 mg) was added at 0° C. under nitrogen atmosphere and the mixture was stirred for 30 minutes. Subsequently, 2-picolyl chloride hydrochloride (105 mg) was added thereto, followed by stirring at 15 to 30° C. for 15 hours. The reaction solution was then poured into a saturated aqueous sodium hydrogencarbonate solution, extracted with toluene, washed with a saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was separated using silica gel column chromatography (ethyl acetate:n-hexane=1:1). The resulting crystal was further recrystallized from methanol to obtain 69.3 mg (37%) of the desired product as a pale yellow needle-like crystal.

reactant | 2-(2-furanyl)-5-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine | 140 mg | O1C(=CC=C1)C1=CC=2C(=NC=C(C2)S(=O)(=O)C)N1 | C12H10N2O3S
reactant | sodium hydride | 53.6 mg | [H-].[Na+]
reactant | 2-picolyl chloride hydrochloride | 105 mg | Cl.N1=C(C=CC=C1)CCl
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2-Furanyl)-5-methanesulfonyl-1-(2-pyridylmethyl)-1H-pyrrolo[2,3-b]pyridine | 69.3 mg, 37% | O1C(=CC=C1)C1=CC=2C(=NC=C(C2)S(=O)(=O)C)N1CC1=NC=CC=C1 | C18H15N3O3S
